US04621084
6-(3-Methylimidazo[1,2-a]pyridin-2-yl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (0.75 g) was prepared in substantially the same manner as that of Example 16 from 6-(2-bromopropionyl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (2.0 g) and 2-aminopyridine (1.8 g). mp. 280°-282° C.

reactant | 6-(2-bromopropionyl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 2.0 g | BrC(C(=O)C=1C=CC2=C(NC(CO2)=O)C1)C | C11H10BrNO3
reactant | 2-aminopyridine | 1.8 g | NC1=NC=CC=C1 | C5H6N2
product | 6-(3-Methylimidazo[1,2-a]pyridin-2-yl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 0.75 g | CC1=C(N=C2N1C=CC=C2)C=2C=CC1=C(NC(CO1)=O)C2 | C16H13N3O2
